US04209625
A mixture of 1-phenylspiro[indoline-3,4'-piperidine] (Example 11), propionyl chloride and sodium bicarbonate in chloroform is stirred at reflux. The mixture is permitted to cool, filtered, and the filtrate concentrated, leaving 1-phenyl-1'-propionylspiro[indoline-3,4'-piperidine]. In a similar fashion, 1-phenylspiro[indoline-3,4'-piperidine] is treated with benzoylchloride to provide 1'-benzoyl-1-phenylspiro[indoline-3,4'-piperidine].

reactant | 1-phenylspiro[indoline-3,4'-piperidine] | C1(=CC=CC=C1)N1CC2(CCNCC2)C2=CC=CC=C12 | C18H20N2
reactant | benzoylchloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1'-benzoyl-1-phenylspiro[indoline-3,4'-piperidine] | C(C1=CC=CC=C1)(=O)N1CCC2(CC1)CN(C1=CC=CC=C12)C1=CC=CC=C1 | C25H24N2O
